US07709649B2
To a suspension of sodium thiomethoxide (0.24 g, 3.5 mmol) in ethanol (10 mL) at 25° C. was added solution of 2-chloro-5-chloromethyl-3-methoxypyridine (0.55 mg, 2.9 mmol) in EtOH (4 mL). The solution was stirred overnight, after which the reaction was concentrated under vacuum. The crude reaction mixture was partitioned between H2O and Et2O and the layers separated. The aqueous phase was further extracted with Et2O (3×) and the combined organic phases dried over MgSO4 and concentrated to furnish 2-chloro-3-methoxy-5-methylthiomethylpyridine as a yellow oil (0.42 g, 71% over two steps). GC-MS: Exact mass calcd for C8H10ClNOS [M]+, 203. Found 203.

reactant | sodium thiomethoxide | 3.5 mmol, 0.24 g | C[S-].[Na+]
reactant | 2-chloro-5-chloromethyl-3-methoxypyridine | 2.9 mmol, 0.55 mg | ClC1=NC=C(C=C1OC)CCl | C7H7Cl2NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | EtOH | 4 mL | CCO | C2H6O
product | 2-chloro-3-methoxy-5-methylthiomethylpyridine | ClC1=NC=C(C=C1OC)CSC | C8H10ClNOS
